US06448270B1
A) 1-Benzenesulfonyl-5-bromoindole
A mixture of 5-bromoindole (5 g, 25.5 mmol) and tetra-n-butylammonium hydrogen sulfate (866 mg, 2.55 mmol) in 50% NaOE (50 mL) and toluene (200 mL) is stirred at room temperature for 5 min. Benzenesulfonyl chloride (3.57 mL, 28 mmol) is added and the mixture stirred for 1 hr. The mixture is diluted with water (500 mL) and extracted with EtOAc (3×100 mL). The extracts are washed with brine (250 mL), dried over MgSO4, filtered and evaporated to a yellow oil. The oil is purified by medium-pressure column chromatography on silica gel eluting with 10% EtOAc/hexanes to give the title compound as a white solid (7.81 g).

reactant | 5-bromoindole | 25.5 mmol, 5 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | Benzenesulfonyl chloride | 28 mmol, 3.57 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | tetra-n-butylammonium hydrogen sulfate | 2.55 mmol, 866 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 500 mL | O | H2O
product | 1-Benzenesulfonyl-5-bromoindole | 7.81 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)Br | C14H10BrNO2S
